US07102000B2
A mixture of 1,4,4,6-tetramethyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinoline-2-one (0.36 g, 1.1 mmol), 3-bromo-2,5-difluoro-4-methoxybenzaldehyde (example 13 a) (0.25 g, 0.1 mmol) and potassium carbonate (0.275 g, 1.99 mmol) in toluene (5 mL), ethanol (1 mL) and water (0.75 mL) was degassed with argon for 30 minutes. Tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) was added and the mixture heated at reflux under argon for 20 hrs. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel (0%–20% ethyl acetate in hexane) to give 97 mg of 2,5-Difluoro-4-methoxy-3-(1,4,4,6-tetramethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-benzaldehyde.

reactant | 1,4,4,6-tetramethyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinoline-2-one | 1.1 mmol, 0.36 g | CN1C(CC(C2=CC(=C(C=C12)B1OC(C(O1)(C)C)(C)C)C)(C)C)=O | C19H28BNO3
reactant | 3-bromo-2,5-difluoro-4-methoxybenzaldehyde | BrC=1C(=C(C=O)C=C(C1OC)F)F | C8H5BrF2O2
reactant | potassium carbonate | 1.99 mmol, 0.275 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 0.75 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,5-Difluoro-4-methoxy-3-(1,4,4,6-tetramethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl)-benzaldehyde | 97 mg | FC1=C(C=O)C=C(C(=C1C1=C(C=C2C(CC(N(C2=C1)C)=O)(C)C)C)OC)F | C21H21F2NO3
